US05643793
Ethyl 3-ketohexanoate 50 g (0.32 mol), Raney nickel 10 g and tetrahydrofuran 500 ml were mixed, and the mixture was reacted with stirring in an autoclave at a temperature of 50° C. and a hydrogen pressure of 5 kg/cm2 for 30 hours. After removing the Raney nickel from the reactant by filtration, the filtrate was concentrated and distilled under reduced pressure to obtain racemic ethyl 3-hydroxyhexanoate 42 g (0.26 mol, 85% )

reactant | Ethyl 3-ketohexanoate | 0.32 mol, 50 g | O=C(CC(=O)OCC)CCC | C8H14O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 10 g | [Ni] | Ni
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | racemic ethyl 3-hydroxyhexanoate | 0.26 mol, 42 g, 85% | OC(CC(=O)OCC)CCC | C8H16O3
